US07888362B2
Preparation of 7-(3-chloropropoxy)-2-ethyl-2H-isoquinolin-1-one
By a similar method as in Reference Example 7,7-(3-chloropropoxy)-2-ethyl-2H-isoquinolin-1-one in the form of a colorless oil was prepared from 7-(3-chloropropoxy)-2H-isoquinolin-1-one using ethyl iodide.

reactant | 7-(3-chloropropoxy)-2H-isoquinolin-1-one | ClCCCOC1=CC=C2C=CNC(C2=C1)=O | C12H12ClNO2
reactant | ethyl iodide | C(C)I | C2H5I
product | 7-(3-chloropropoxy)-2-ethyl-2H-isoquinolin-1-one | ClCCCOC1=CC=C2C=CN(C(C2=C1)=O)CC | C14H16ClNO2
